US04748239
(B) (cis)-3-(Acetyloxy)-7-chloro-1-[3-(dimethylamino)propyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride
A stirred suspension of (cis)-3-(hydroxy)-7-chloro-1-[3-(dimethylamino)propyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride (0.96 g; 2.18 mmol) in 35 ml of acetic anhydride was heated in an oil bath under argon and the resulting solution kept at 115°-118,° C. for 3 hours. The acetic anhydride was removed on a rotary evaporator at 0.2 mm to give a solid. The latter was rubbed under ethyl acetate, treated with 0.5 ml of saturated hydrogen chloride in ether to pH 2 and the evaporation repeated. The solid was rubbed under ether, evaporated, and pump-dried. The colorless material was rubbed under fresh ether, cooled overnight, filtered, washed with ether, and dried in vacuo; yield, 0.96 g; melting point 212°-215° C. (dec.), s, 200° C. TLC: Rf =0.32 (8:1:1, dichloromethane-methanol-acetic acid).

reactant | (cis)-3-(hydroxy)-7-chloro-1-[3-(dimethylamino)propyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | 2.18 mmol, 0.96 g | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)Cl)CCCN(C)C)=O
reactant | hydrogen chloride | 0.5 ml | Cl | ClH
reactant | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
solvent | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | (cis)-3-(Acetyloxy)-7-chloro-1-[3-(dimethylamino)propyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)Cl)CCCN(C)C)=O | InChI=1S/C24H29ClN2O4.ClH/c1-16(28)31-23-21(17-6-9-20(30-4)10-7-17)15-18-14-19(25)8-11-22(18)27(24(23)29)13-5-12-26(2)3;/h6-11,14,21,23H,5,12-13,15H2,1-4H3;1H/t21-,23+;/m1./s1
